US07399775B2
Methyl 3-[6-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-3-yl]propionate
Methyl 3-[6-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-3-yl]acrylate (160 mg, 0.34 mmol) was dissolved in ethanol (15 ml). Palladium on carbon (30 mg) was added and the resulting mixture was vigorously stirred under 1 atm hydrogen atmosphere for 24 hours. The reaction mixture was filtered and then, concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=5:1), whereby the title compound (94 mg, 58%) was obtained as needle crystals.

reactant | Methyl 3-[6-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-3-yl]acrylate | 0.34 mmol, 160 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=N1)C=CC(=O)OC)C1=C(C=CC(=C1)F)F | C22H16ClF2NO4S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 30 mg | [Pd] | Pd
product | Methyl 3-[6-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-3-yl]propionate | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=N1)CCC(=O)OC)C1=C(C=CC(=C1)F)F | C22H18ClF2NO4S
